US07034039B2
To a solution of ethyl (E)-3-[4-butoxy-3[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenate (0.67 g, 1.3 mmol) in tetrahydrofuran (5 mL) and ethanol (5 mL) as added 1N sodium hydroxide (3 mL). The obtained mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl-acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-n-hexane to give (E)-3-[4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenic acid (0.53 g, 84.1%) as crystals.

reactant | ethyl (E)-3-[4-butoxy-3[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenate | 1.3 mmol, 0.67 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)/C=C/C(=O)OCC)=O)CC(C)(C)C)CNC(=O)OC(C)(C)C | C29H42N2O6
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (E)-3-[4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenic acid | 0.53 g, 84.1% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)/C=C/C(=O)O)=O)CC(C)(C)C)CNC(=O)OC(C)(C)C | C27H38N2O6
